US04307094
In a manner analogous to that described in Example 32, from methyl 2-acetylthiomethyl-2,3,5,6,7,8-hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate there was obtained in 29% yield 2,3,5,6,7,8-hexahydro-2-mercaptomethyl-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid of melting point 157.5°-158.5° C. (from ethyl acetate/hexane).

reactant | methyl 2-acetylthiomethyl-2,3,5,6,7,8-hexahydro-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCN1C(N2N(CCCC2C(=O)OC)C1=O)=O | C11H15N3O5S
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,3,5,6,7,8-hexahydro-2-mercaptomethyl-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 29% yield | SCN1C(N2N(CCCC2C(=O)O)C1=O)=O | C8H11N3O4S
